US05994356
(4) 1-(4-Cycloheptyloxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride
Prepared from 1-(4-carboxymethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride and cycloheptanol.

reactant | 1-(4-carboxymethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride | Cl.Cl.C(=O)(O)COC1=CC=C(C=C1)N1CCN(CC1)CCC1CCNCC1
reactant | cycloheptanol | C1(CCCCCC1)O | C7H14O
product | 1-(4-Cycloheptyloxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride | Cl.Cl.C1(CCCCCC1)OC(=O)COC1=CC=C(C=C1)N1CCN(CC1)CCC1CCNCC1 | InChI=1S/C26H41N3O3.2ClH/c30-26(32-25-5-3-1-2-4-6-25)21-31-24-9-7-23(8-10-24)29-19-17-28(18-20-29)16-13-22-11-14-27-15-12-22;;/h7-10,22,25,27H,1-6,11-21H2;2*1H
